US05434288
[2-[3-(1-Tridecynyl)phenyl]ethenylidene]bisphosphonic acid
Tetraethyl[2-[3-(1-tridecynyl)phenyl]ethenylidene]bisphosphonate (3.247 g, 5.85 mmol) prepared according to Example 1 was dissolved in a mixture of CH2Cl2 -CD2Cl2 (25 ml, 4:1), and stirred under argon while trimethylsilyl bromide (3.5 ml, 26.5 mmol) was added. After the reaction was stirred for 6.5 hours, the solvent was removed under reduced pressure and the residue was briefly placed on the vacuum line. Hydrolysis was effected in tetrahydrofuran-water (9:1, 10 ml), stirring for 39 hours at room temperature. After stripping off the solvent, the residue was recrystallized from heptane-ether to give the product as a white solid, 0.416 g, 0.94 mmol, 16% yield; 1H NMR (CD3OD) ∂ 0.89 (t, J=6.9 Hz, 3H), 1.21 to 1.65 (several m, 18H), 2.40 (t, J=7.0 Hz, 2H), 7.55 (m, 2H), 7.71 (m, 2H), 8.03 (dd, J=46.1, 29.2 Hz, 1H); HRMS calcd for (M+H)+C21H33O6P2 m/z 443.1752, found 443.1700.

reactant | Tetraethyl[2-[3-(1-tridecynyl)phenyl]ethenylidene]bisphosphonate | 5.85 mmol, 3.247 g | C(C)OP(OCC)(=O)C(=CC1=CC(=CC=C1)C#CCCCCCCCCCCC)P(OCC)(OCC)=O | C29H48O6P2
reactant | trimethylsilyl bromide | 26.5 mmol, 3.5 ml | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 CD2Cl2 | 25 ml | C(Cl)Cl.[2H]C(Cl)(Cl)[2H] | 2CH2Cl2
solvent | tetrahydrofuran water | 10 ml | O1CCCC1.O
product | [2-[3-(1-Tridecynyl)phenyl]ethenylidene]bisphosphonic acid | 16% yield | C(#CCCCCCCCCCCC)C=1C=C(C=CC1)C=C(P(O)(O)=O)P(O)(O)=O | C21H32O6P2
